US06833456B2
(ii) 3-Chloro-4-fluoro-5-[2-(3-methoxy-pyrrolidine-1-carbonyl)-thieno[3,2-b]pyridin-7-yloxy]-2-methyl-indole-1-carboxylic acid 4-nitro-phenyl ester
To a stirred solution of [7-(4-Fluoro-2-methyl-1 h-indol-5-yloxy)-thieno[3,2-b]pyridin-2-yl]-(3-methoxy-pyrrolidin-1-yl)-methanone (399 mg, 0.94 mmole) in CH2Cl2 (30 ml) and DMSO (0.2 ml) were added, sequentially, freshly crushed NaOH (700 mg, 17.50 mmole), Bu4NBr (25 mg, catalytic amount) and 4-nitrophenyl chloroformate (1.18 g, 5.84 mmole). After stirring at ambient temperature for overnight, the reaction mixture was filtered and the filtrate was concentrated, in vacuo, to give crude product, which was further purified by flash column chromatography eluted with EtOAc : CH2Cl2:MeOH (1:1:0.02) to provide 110 mg (19%) of a yellow solid. 1H NMR (300 MHz, CDCl3): δ 8.55 (1H, d, J=5.5 Hz), 8.40 (2H, d, J=8.7 Hz), 8.04 (1H, d, J=9.1 Hz), 7.86 (1H, d, J=10.7 Hz), 7.53 (2H, d, J=9.04 Hz), 7.26 (1H, dd, J=9.2, 1.9 Hz), 6.62 (1H, d, J=5.5 Hz), 4.02-3.89 (3H, m), 3.88-3.71 (2H, m), 3.37 (3H, d, J=15.1 Hz), 2.73 (3H, s), 2.29-2.08 (2H, m).

reactant | [7-(4-Fluoro-2-methyl-1 h-indol-5-yloxy)-thieno[3,2-b]pyridin-2-yl]-(3-methoxy-pyrrolidin-1-yl)-methanone | 0.94 mmole, 399 mg | FC1=C2C=C(NC2=CC=C1OC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC(CC2)OC)C | C22H20FN3O3S
reactant | NaOH | 17.50 mmole, 700 mg | [OH-].[Na+]
reactant | 4-nitrophenyl chloroformate | 5.84 mmole, 1.18 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DMSO | 0.2 ml | CS(=O)C | C2H6OS
catalyst | Bu4NBr | 25 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
product | 3-Chloro-4-fluoro-5-[2-(3-methoxy-pyrrolidine-1-carbonyl)-thieno[3,2-b]pyridin-7-yloxy]-2-methyl-indole-1-carboxylic acid 4-nitro-phenyl ester | 110 mg, 19% | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(=C(C2=C(C(=CC=C12)OC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC(CC2)OC)F)Cl)C | C29H22ClFN4O7S
